US04386099
5-Methyl-4-(3-aminophenyl)-1-H-imidazole
Eighty-four grams of 5-methyl-4-(3-nitrophenyl)-1-H-imidazole [R. Morgenstern et al., Pharmazie 30, 103 (1975)] dissolved in methanol were hydrogenated in the presence of 0.8 gm of 5% Pd catalyst at atmospheric pressure and at room temperature. When the calculated amount of hydrogen was taken up, the catalyst was filtered off, and the remaining solution was evaporated to dryness to produce 62.5 gm of the desired compound.

reactant | 5-methyl-4-(3-nitrophenyl)-1-H-imidazole | Eighty-four grams | CC1=C(N=CN1)C1=CC(=CC=C1)[N+](=O)[O-] | C10H9N3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | Pd | 0.8 gm | [Pd] | Pd
product | 5-Methyl-4-(3-aminophenyl)-1-H-imidazole | 62.5 gm | CC1=C(N=CN1)C1=CC(=CC=C1)N | C10H11N3
